US08809376B2
{(S)-6-[(R)-4-Formyl-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester
NaIO4 (1.80 g) and OsO4 (4% in water, 50 μL) are added to a mixture of {(S)-6-[(R)-5-trifluoromethyl-4-vinyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester (1.25 g), tetrahydrofuran (16 mL), and water (4 mL) at room temperature. The mixture is stirred at 50° C. overnight. After cooling to room temperature, water is added and the mixture is extracted with ethyl acetate. The combined extract is washed with brine, dried (Na2SO4), and concentrated. The residue is chromatographed on silica gel (cyclohexane/ethyl acetate) to give the title compound. LC (method 2): tR=1.19 min; Mass spectrum (ESI+): m/z=421 [M+H]+.

reactant | {(S)-6-[(R)-5-trifluoromethyl-4-vinyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | 1.25 g | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)C=C)=O | C23H21F3O4
reactant | tetrahydrofuran | 16 mL | O1CCCC1 | C4H8O
catalyst | OsO4 | 50 μL | O=[Os](=O)(=O)=O
solvent | water | O | H2O
solvent | water | 4 mL | O | H2O
product | {(S)-6-[(R)-4-Formyl-5-trifluoromethyl-indan-1-yloxy]-2,3-dihydro-benzofuran-3-yl}-acetic acid methyl ester | COC(C[C@@H]1COC2=C1C=CC(=C2)O[C@@H]2CCC1=C(C(=CC=C21)C(F)(F)F)C=O)=O | C22H19F3O5
